US07989461B2
Phosphorous oxychloride (19.5 mL, 210 mmol) and 8-iodo-7-methylquinazolin-4(3H)-one (2.00 g, 6.99 mmol) were added to a round bottomed flask. The reaction mixture was heated at reflux for 2 h. Upon cooling, excess POCl3 was removed under reduced pressure and the remaining crude product dissolved in DCM (100 mL) and washed with ice-cold water (300 mL) to remove excess acid. The crude residue dissolved in DCM was then dried over anhydrous sodium sulfate and concentrated in vacuo to give 4-chloro-8-iodo-7-methylquinazoline (1.96 g, 92%) as an amorphous brown solid. MS (M+H)+ 305.

reactant | Phosphorous oxychloride | 210 mmol, 19.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-iodo-7-methylquinazolin-4(3H)-one | 6.99 mmol, 2.00 g | IC=1C(=CC=C2C(NC=NC12)=O)C | C9H7IN2O
product | 4-chloro-8-iodo-7-methylquinazoline | 1.96 g, 92% | ClC1=NC=NC2=C(C(=CC=C12)C)I | C9H6ClIN2
